US09034866B2
Methyl 9-bromo-4,4-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford crude (R)-methyl 4,4-difluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate. Crude (R)-methyl 4,4-difluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate was subjected to General Procedure M to afford 21.2 mg (38%) of 4,4-difluoro-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxamide. M+1=420; 1H NMR (400 MHz, DMSO-d6) δ 8.73 (s, 1H), 8.63 (d, J=2.2 Hz, 1H), 8.15 (s, 1H), 7.49 (dd, J=8.4, 2.2 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 6.43 (s, 1H), 4.76 (t, J=10.6 Hz, 2H), 3.43-3.29 (m, 2H), 2.81 (s, 2H), 2.46 (ddd, J=12.8, 6.4, 5.1 Hz, 1H), 2.26-2.15 (m, 1H).

reactant | Methyl 9-bromo-4,4-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OC)(F)F)C=C1 | C13H8BrF2NO3S
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | (R)-methyl 4,4-difluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | FC1(COC2=C(C=3N=C(SC31)C(=O)OC)C=C(C=C2)C#C[C@]2(C(N(CC2)C)=O)O)F | C20H16F2N2O5S
